US04518779
To a stirred solution of monomethylamine (200 ml) and methanol (1 liter) maintained under nitrogen and cooled in an ice bath was added a solution of 1-chloromethyl-4-phenylisoquinoline (24.3 g, 0.093 m) in methanol (100 ml) and the mixture allowed to warm to ambient temperature and stirred for 3 days. The solvents were evaporated and the dark oily residue dissolved in methanol (50 ml) and isopropanol and acidified with HCl gas. Upon cooling and standing, a white solid crystallized which was collected by filtration and dried to give 16.3 g 1-methylaminomethyl-4-phenylisoquinoline hydrochloride, m.p. 212°-213°. An analytical sample, recrystallized from methanol/ethanol, had m.p. 215°-216°.

reactant | monomethylamine | 200 ml | CN | CH5N
reactant | 1-chloromethyl-4-phenylisoquinoline | 24.3 g | ClCC1=NC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C16H12ClN
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 1 liter | CO | CH4O
product | 1-methylaminomethyl-4-phenylisoquinoline hydrochloride | 16.3 g | Cl.CNCC1=NC=C(C2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C17H16N2.ClH/c1-18-12-17-15-10-6-5-9-14(15)16(11-19-17)13-7-3-2-4-8-13;/h2-11,18H,12H2,1H3;1H
